US07285558B2
5-{2-[(6-chloroquinolin-4-yl)methyl]-7-isobutyl-5-methyl-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl}-1-methyl-1H-pyrrole-3-carboxylic acid
This compound was made following the procedure described above, starting with 6-hydrazino-1-isobutyl-3-methylpyrimidine-2,4(1H,3H)-dione, and condensing first with 6-chloroquinoline-4-carbaldehyde, followed by 5-formyl-1-methyl-1H-pyrrole-3-carboxylic acid. Mass: 521.09 (M+H).

reactant | 6-hydrazino-1-isobutyl-3-methylpyrimidine-2,4(1H,3H)-dione | N(N)C1=CC(N(C(N1CC(C)C)=O)C)=O | C9H16N4O2
reactant | 6-chloroquinoline-4-carbaldehyde | ClC=1C=C2C(=CC=NC2=CC1)C=O | C10H6ClNO
reactant | 5-formyl-1-methyl-1H-pyrrole-3-carboxylic acid | C(=O)C1=CC(=CN1C)C(=O)O | C7H7NO3
product | 5-{2-[(6-chloroquinolin-4-yl)methyl]-7-isobutyl-5-methyl-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl}-1-methyl-1H-pyrrole-3-carboxylic acid | ClC=1C=C2C(=CC=NC2=CC1)CN1N=C2N(C(N(C(C2=C1C1=CC(=CN1C)C(=O)O)=O)C)=O)CC(C)C | C26H25ClN6O4
